US09278931B2
A) tert-butyl(trans-2-{4-[(phenylcarbonyl)amino]phenyl}cyclopropyl)carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (150 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (6 mL) were added benzoyl chloride (84 μL) and triethylamine (101 μL). The mixture was stirred at room temperature overnight and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (212 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 150 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | benzoyl chloride | 84 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 101 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | tert-butyl(trans-2-{4-[(phenylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 212 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=CC=C1)=O | C21H24N2O3
